US04482546
A mixture of 3-ethyl-4-ethoxy-5-methylaniline (1.8 g) in toluene (20 ml was dropwise added to a toluene solution containing 10 g of phosgene at 10° to 20° C. The resulting mixture was gradually heated and, after being refluxed for 30 minutes, cooled to room temperature. The solvent was removed by distillation under reduced pressure to give 3-ethyl-4-ethoxy-5-methylphenyl isocyanate (2.1 g). The thus obtained crude substance was added to an isopropanol solution (20 ml) containing triethylamine (1 g). The resultant mixture was allowed to stand at room temperature for 12 hours, poured into ice-water and extracted with toluene. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using toluene as the eluent to give isopropyl N-(3-ethyl-4-ethoxy-5-methylphenyl)carbamate (Compound No. 93) ((2.4 g) in a yield of 91% (calculated from the starting 3-ethyl-4-ethoxy-5-methylaniline). M.P., 68°- 69.5° C.

reactant | 3-ethyl-4-ethoxy-5-methylaniline | 1.8 g | C(C)C=1C=C(N)C=C(C1OCC)C | C11H17NO
reactant | phosgene | 10 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-ethyl-4-ethoxy-5-methylphenyl isocyanate | 2.1 g | C(C)C=1C=C(C=C(C1OCC)C)N=C=O | C12H15NO2
